US08492397B2
To the solution of tert-butyl (3R,4R)-3-hydroxy-4-[({[(2S)-1,1,1-trifluoropropan-2-yl]oxy}carbonyl)amino]pyrrolidine-1-carboxylate (100 mg) in CHCl3 (0.5 ml) was added TFA (0.5 ml). After stirring for 1 hour at room temperature, the mixture was poured into saturated aqueous solution of NaHCO3 and extracted with CHCl3. The extract was dried over Na2SO4 and concentrated to give (2S)-1,1,1-trifluoropropan-2-yl [(3R,4R)-4-hydroxypyrrolidin-3-yl]carbamate as a pale yellow foam.

reactant | tert-butyl (3R,4R)-3-hydroxy-4-[({[(2S)-1,1,1-trifluoropropan-2-yl]oxy}carbonyl)amino]pyrrolidine-1-carboxylate | 100 mg | O[C@@H]1CN(C[C@H]1NC(=O)O[C@H](C(F)(F)F)C)C(=O)OC(C)(C)C | C13H21F3N2O5
reactant | TFA | 0.5 ml | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | CHCl3 | 0.5 ml | C(Cl)(Cl)Cl | CHCl3
product | (2S)-1,1,1-trifluoropropan-2-yl [(3R,4R)-4-hydroxypyrrolidin-3-yl]carbamate | O[C@H]1[C@@H](CNC1)NC(O[C@H](C(F)(F)F)C)=O | C8H13F3N2O3
